US05578636
Synthesis of 5-(4-acetoxy-1-butynyl)-2,2'-bithiophene
4-(Hydroxy-1-butynyl)-2,2'-bithiophene (1.23 g) was dissolved in pyridine (6 ml ). Acetic anhydride (1 ml ) was added at room temperature, stirred for few minutes and further kept overnight. Water (20 ml) was added oily product was then extracted with 30 ml of ethyl acetate. The extract was washed with 10 ml of HCl (1N) for 3 times, 10 ml of water once and 10 ml of diluted KHCO3 solution once. Ethyl acetate was then removed under reduced pressure. The residual solid was purified by silica gel column chromatography, eluted with ethyl acetate/n-hexane (1/19). Light yellowish oily product (1.7 g) was obtained after removal of the solvent.

reactant | 4-(Hydroxy-1-butynyl)-2,2'-bithiophene | 1.23 g | OCCC#CC=1C=C(SC1)C=1SC=CC1 | C12H10OS2
reactant | Acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | 20 ml | O | H2O
reactant | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 5-(4-acetoxy-1-butynyl)-2,2'-bithiophene | 1.7 g | C(C)(=O)OCCC#CC1=CC=C(S1)C=1SC=CC1 | C14H12O2S2
